US05237070
To a mixture of 200 ml of ethanol and 25.0g (0.0736 mole) of 2,6-di(tertiary-butyl)-4-(4'-carboxyphenylimino)-2,5-cyclohexadien-1-one and 12 g (0.087 mole) of potassium carbonate warmed on a steam bath was added 1.0g of palladium on charcoal. The mixture was reduced using a Paar apparatus for 2 hours. The mixture was diluted with 300 ml of water, filtered through celite, and the filtrate acidified with 6N hydrochloric acid. The yellow solid precipitate was collected by filtration to provide 4-[3,5-di(tertiary-butyl)-4-hydroxyanilino]benzoic acid, m.p. 241°-242° C.

reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | 2,6-di(tertiary-butyl)-4-(4'-carboxyphenylimino)-2,5-cyclohexadien-1-one | 0.0736 mole, 25.0g | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC=C(C=C1)C(=O)O)C(C)(C)C)=O | C21H25NO3
reactant | potassium carbonate | 0.087 mole, 12 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium on charcoal | 1.0g | [Pd] | Pd
solvent | water | 300 ml | O | H2O
product | 4-[3,5-di(tertiary-butyl)-4-hydroxyanilino]benzoic acid | C(C)(C)(C)C=1C=C(NC2=CC=C(C(=O)O)C=C2)C=C(C1O)C(C)(C)C | C21H27NO3
